US08389524B2
(2R)-2-[(4-{[(3-Oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride
(2R)-2-[(4-Amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione (50 mg, 0.166 mmol) (for a preparation see Example 16(j)) and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde (29 mg, 0.90 eq.) (for a synthesis see WO2003087098, Example 301(d)) were stirred in 9:1 chloroform:methanol (1 ml) at room temperature for 3 hours, then sodium triacetoxyborohydride (105 mg, 3.00 eq.) was added. The mixture was stirred at room temperature for a further 30 minutes, then saturated aqueous sodium hydrogen carbonate (0.5 ml) was added, and the organic phase was diluted with DCM (10 ml). The mixture was stirred vigorously for 10 minutes, then the organic phase was separated (hydrophobic frit) and evaporated under reduced pressure. The residue was taken up in DCM (ca. 3 ml)+1 drop MeOH and purified by column chromatography on silica (eluted with 0-12% (2M NH3 in MeOH) in DCM). Appropriate fractions were combined and evaporated to give the free base of the title compound as a yellow amorphous solid.

reactant | (2R)-2-[(4-Amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione | 0.166 mmol, 50 mg | NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3N=CC(N1C23)=O)=O | C15H19N5O2
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde | 29 mg, 0.90 eq. | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
reactant | sodium triacetoxyborohydride | 105 mg, 3.00 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | 0.5 ml | C(O)([O-])=O.[Na+]
reactant | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 1 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (2R)-2-[(4-{[(3-Oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride | Cl.O=C1NC2=C(SC1)C=CC(=N2)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3N=CC(N2C13)=O)=O | InChI=1S/C23H25N7O3S.ClH/c31-19-13-34-18-3-1-15(26-22(18)27-19)9-24-14-5-7-28(8-6-14)11-16-12-29-20(32)4-2-17-23(29)30(16)21(33)10-25-17;/h1-4,10,14,16,24H,5-9,11-13H2,(H,26,27,31);1H/t16-;/m1./s1
